US07429660B2
[5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid methyl ester
To a solution of 2-(7-Amino-9H-thioxanthen-4-yl)-6-morpholin-4-yl-pyran-4-one (1.01 g, 2.56 mmol) in anhydrous DMF (25 ml) was added powdered potassium carbonate (716 mg, 5.18 mmol) followed by methylbromoacetate (400 μl, 4.1 mmol). The reaction was stirred at room temperature for 100 hours whereupon it was quenched by dropwise addition of water (75 ml). The mixture was extracted using EtOAc (3×30 ml). The organic extracts were then combined, dried using MgSO4, filtered and concentrated in vacuo to give the title compound as a brown oil that was used without further purification (1.02 g, 85.7%), m/z (LC-MS, ESP), RT=4.05 min, (M++1)=466

reactant | 2-(7-Amino-9H-thioxanthen-4-yl)-6-morpholin-4-yl-pyran-4-one | 2.56 mmol, 1.01 g | NC1=CC=C2SC=3C(=CC=CC3CC2=C1)C=1OC(=CC(C1)=O)N1CCOCC1 | C22H20N2O3S
reactant | potassium carbonate | 5.18 mmol, 716 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 4.1 mmol, 400 μl | COC(CBr)=O | C3H5BrO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | [5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid methyl ester | COC(COC1=CC=2CC3=CC=CC(=C3SC2C=C1)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C25H23NO6S
